US06093696
N-Acetyl-D-thioproline-L-tyrosine methyl ester
EDC (2.11 g, 11 mmol) was added to a stirred solution of N-acetyl-D-thioproline (1.75 g, 10 mmol), tyrosine methyl ester (2.32 g, 10 mmol), HOBT (1.49 g, 11 mmol) and NMM (2.31 ml, 21 mmol) in DMF (50 ml) at 0°. The mixture was stirred at room temperature overnight. The DMF was evaporated in vacuo and the residue dissolved in ethyl acetate (400 ml), and water (50 ml). The organic phase was washed with 10% citric acid (100 ml), saturated aqueous NaHCO3 (100 ml), water (100 ml) and brine (100 ml), dried (Na2SO4) and evaporated in vacuo to give the title compound as a slightly yellow powdery solid (2.75 g, 78%), used without further purification. A small portion was crystallised from EtOAC to give a white microcrystalline solid, m.p. 189-190°. δH (DMSO-D6, 400K) 7.7 (1H, br s, CONH), 6.98 (2H, d, J 8.6 Hz, ArH), 6.69 (2H, d, J 8.5 Hz, ArH), 4.83 (1H, dd, J 3.9, 7.4 Hz, CHαthiopro), 4.77 (1H, d, J 9.2 NCHAHBS), 4.53 (1H, dt, J 5.8, 8.1 Hz, CHαtyr), 4.38 (1H, d, J 9.2 Hz, NCHAHBS), 3.65 (3H, s, C O2HC), 3.25 (1H, dd, J 7.3, 11.5 Hz, CHCHAHBS), 3.05-2.97 (2H, m, CHAHBAr+CHCHAHBS), 2.89 (1H, dd, J 8.2, 14.1 Hz, CHAHBAr) and 1.99 (3H, s, CH3CO) [phenolic OH not observed at 400K, for δH (DMSO-d6, 300K) 9.19 (1H, br s, ArOH)]; m/z ESI, 27V), 353 (M+ +1).

reactant | EDC | 11 mmol, 2.11 g
reactant | N-acetyl-D-thioproline | 10 mmol, 1.75 g | C(C)(=O)N1[C@@H](C(=O)O)CSC1 | C6H9NO3S
reactant | tyrosine methyl ester | 10 mmol, 2.32 g | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
reactant | HOBT | 11 mmol, 1.49 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 21 mmol, 2.31 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-Acetyl-D-thioproline L-tyrosine methyl ester | C(C)(=O)N1[C@@H](C(=O)O)CSC1.COC([C@@H](N)CC1=CC=C(C=C1)O)=O | InChI=1S/C10H13NO3.C6H9NO3S/c1-14-10(13)9(11)6-7-2-4-8(12)5-3-7;1-4(8)7-3-11-2-5(7)6(9)10/h2-5,9,12H,6,11H2,1H3;5H,2-3H2,1H3,(H,9,10)/t9-;5-/m01/s1
